US07468376B2
N-Cyclopropylmethyl-[4-[3-benzyloxycarbonylamino-6-(3-trifluoromethylphenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]pyrimidin-2-yl]amine
Following a similar procedure to that described in example 208, but starting from N-benzyloxycarbonyl-[5-(2-methylsulfonylpyrimidin-4-yl)-6-(3-trifluoromethylphenyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]amine (obtained in section b) and (cyclopropylmethyl)amine, the desired compound was obtained.

reactant | N-benzyloxycarbonyl-[5-(2-methylsulfonylpyrimidin-4-yl)-6-(3-trifluoromethylphenyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]amine | C(C1=CC=CC=C1)OC(=O)NC1=NNC2=NC(=C(C=C21)C2=NC(=NC=C2)S(=O)(=O)C)C2=CC(=CC=C2)C(F)(F)F | C26H19F3N6O4S
reactant | (cyclopropylmethyl)amine | C1(CC1)CN | C4H9N
product | N-Cyclopropylmethyl-[4-[3-benzyloxycarbonylamino-6-(3-trifluoromethylphenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]pyrimidin-2-yl]amine | C1(CC1)CNC1=NC=CC(=N1)C=1C=C2C(=NC1C1=CC(=CC=C1)C(F)(F)F)NN=C2NC(=O)OCC2=CC=CC=C2 | C29H24F3N7O2
